US08871934B2
Optically Active Form of ethyl 2-[4-(2-fluoro-9-hydroxy-9-trifluoromethyl-9H-fluoren-4-yl)-pyrazol-1-yl]-3-oxo-propionate
To a mixture of tetrahydrofuran (80 ml) and an optically active form (10.1 g) of t-butyl[4-(2-fluoro-9-hydroxy-9-trifluoromethyl-9H-fluoren-4-yl)-pyrazol-1-yl]-acetate was added ethyl formate (4.13 ml), and the mixture was stirred at 0° C. To this mixture was added sodium hydride (60 w/w % mineral oil dispersion, 2.57 g). The reaction mixture was warmed to room temperature and stirred for 3 hr. The reaction mixture was ice-cooled, 1N hydrochloric acid was added and the mixture was stirred. Ethyl acetate and water were added thereto, and the mixture was partitioned in a separatory funnel. The aqueous layer was further extracted with ethyl acetate, and the extract was combined with the organic layer obtained earlier. The organic layer was successively washed with water and saturated brine, dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated under reduced pressure to give the title compound (13.2 g). The obtained residue was directly used for the next reaction without further purification.

reactant | t-butyl[4-(2-fluoro-9-hydroxy-9-trifluoromethyl-9H-fluoren-4-yl)-pyrazol-1-yl]-acetate | 10.1 g | C(C)(C)(C)OC(CN1N=CC(=C1)C1=CC(=CC=2C(C3=CC=CC=C3C12)(C(F)(F)F)O)F)=O | C23H20F4N2O3
reactant | ethyl formate | 4.13 ml | C(=O)OCC | C3H6O2
reactant | sodium hydride | 2.57 g | [H-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | ethyl 2-[4-(2-fluoro-9-hydroxy-9-trifluoromethyl-9H-fluoren-4-yl)-pyrazol-1-yl]-3-oxo-propionate | 13.2 g | FC1=CC=2C(C3=CC=CC=C3C2C(=C1)C=1C=NN(C1)C(C(=O)OCC)C=O)(C(F)(F)F)O | C22H16F4N2O4
